US04642316
Phenytoin Sodium/Arginine Solution
Arginine (1.6 g, 4.6 mmol) was dissolved in 20 ml water and added to 1.25 g (4.6 mmol) phenytoin sodium with stirring. One drop of 10 N sodium hydroxide solution was added to complete the dissolution of the solid. After about 30 min. stirring, the pH of the solution stabilized at 11.4-11.6.

reactant | Arginine | 4.6 mmol, 1.6 g | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | phenytoin sodium | 4.6 mmol, 1.25 g | C=1C=CC(=CC1)C2(C(=O)N=C(N2)[O-])C=3C=CC=CC3.[Na+]
solvent | water | 20 ml | O | H2O
catalyst | sodium hydroxide | 10 N, One drop | [OH-].[Na+]
product | Phenytoin Sodium Arginine | C=1C=CC(=CC1)C2(C(=O)N=C(N2)[O-])C=3C=CC=CC3.[Na+].N[C@@H](CCCNC(N)=N)C(=O)O | InChI=1S/C15H12N2O2.C6H14N4O2.Na/c18-13-15(17-14(19)16-13,11-7-3-1-4-8-11)12-9-5-2-6-10-12;7-4(5(11)12)2-1-3-10-6(8)9;/h1-10H,(H2,16,17,18,19);4H,1-3,7H2,(H,11,12)(H4,8,9,10);/q;;+1/p-1/t;4-;/m.0./s1
